US07556908B2
Synthesis of 4-(1-methyl-1-cyclohexyloxycarbonyl)butyl methacrylate
Synthetic experiment was conducted in the same manner as in Monomer Synthesis Example 1 except that 2-ethyl-2-adamantanol and chloroacetyl chloride were changed to 1-methyl-1-cyclohexanol and 5-chlorovaleryl chloride respectively, and the above described methacrylic derivative was obtained.

reactant | 2-ethyl-2-adamantanol | C(C)C1(C2CC3CC(CC1C3)C2)O | C12H20O
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-methyl-1-cyclohexanol | CC1(CCCCC1)O | C7H14O
reactant | 5-chlorovaleryl chloride | ClCCCCC(=O)Cl | C5H8Cl2O
product | 4-(1-methyl-1-cyclohexyloxycarbonyl)butyl methacrylate | C(C(=C)C)(=O)OCCCCC(=O)OC1(CCCCC1)C | C16H26O4
